US07273865B2
To a stirred suspension of 314 mg (0.85 mmol) N-[7-methoxy-4-(tetrahydro-pyran-4-yl)-thiazolo[5,4-c]pyridin-2-yl]-benzamide in 2.5 ml methanol was added 0.85 ml 5 N aq. sodium hydroxide solution and the resulting solution was then heated at 130° C. for 12 min in a microwave oven. The reaction mixture was then cooled to room temperature and partitioned between tetrahydrofuran and 1 N aq. sodium hydroxide solution. The phases were separated and the organic phase was dried over sodium sulfate and concentrated in vacuo. Flash chromatography (methanol/dichloromethane) afforded 174 mg (77%) 7-methoxy-4-(tetrahydro-pyran-4-yl)-thiazolo[5,4-c]pyridin-2-ylamine as a light yellow crystalline solid. ES-MS m/e (%): 266 (M+H+, 100).

reactant | N-[7-methoxy-4-(tetrahydro-pyran-4-yl)-thiazolo[5,4-c]pyridin-2-yl]-benzamide | 0.85 mmol, 314 mg | COC=1C2=C(C(=NC1)C1CCOCC1)SC(=N2)NC(C2=CC=CC=C2)=O | C19H19N3O3S
reactant | sodium hydroxide | 5 N, 0.85 ml | [OH-].[Na+]
solvent | methanol | 2.5 ml | CO | CH4O
product | 7-methoxy-4-(tetrahydro-pyran-4-yl)-thiazolo[5,4-c]pyridin-2-ylamine | 174 mg, 77% | COC=1C2=C(C(=NC1)C1CCOCC1)SC(=N2)N | C12H15N3O2S
